US07547701B2
Synthesis of N-(1-cyanocyclopropyl)-3-(2-difluoromethoxyphenylmethanesulfonyl)-2(R)-[2,2,2-trifluoro-1(S)-(4-fluorophenyl)ethylamino]propionamide
To a solution of 3-(2-difluoromethoxyphenylmethanesulfonyl)-2(R)-[2,2,2-trifluoro-1(RS)-(4-fluorophenyl)ethylamino]propionic acid (157 mg, 0.325 mmol) in DMF (5 mL) was added 1-aminocyclopropanecarbonitrile hydrochloride (46.4 mg, 0.39 mmol), HATU (186.3 mg, 0.49 mmol) and DIPEA (63.2 mg, 0.49 mmol). After 1 h, the reaction mixture was extracted with ethyl acetate (100 mL) and washed with satured NaHCO3 and brine. After driying with MgSO4, the solvent was removed and the residue was purified by column chromatograph yield the title compound (125 mg).

reactant | 3-(2-difluoromethoxyphenylmethanesulfonyl)-2(R)-[2,2,2-trifluoro-1(RS)-(4-fluorophenyl)ethylamino]propionic acid | 0.325 mmol, 157 mg | FC(OC1=C(C=CC=C1)CS(=O)(=O)C[C@@H](C(=O)O)NC(C(F)(F)F)C1=CC=C(C=C1)F)F | C19H17F6NO5S
reactant | 1-aminocyclopropanecarbonitrile hydrochloride | 0.39 mmol, 46.4 mg | Cl.NC1(CC1)C#N
reactant | HATU | 0.49 mmol, 186.3 mg | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=N2)N=N1.F[P-](F)(F)(F)(F)F
reactant | DIPEA | 0.49 mmol, 63.2 mg | CCN(C(C)C)C(C)C | C8H19N
solvent | DMF | 5 mL | CN(C)C=O | C3H7NO
product | N-(1-cyanocyclopropyl)-3-(2-difluoromethoxyphenylmethanesulfonyl)-2(R)-[2,2,2-trifluoro-1(S)-(4-fluorophenyl)ethylamino]propionamide | 125 mg | C(#N)C1(CC1)NC([C@H](CS(=O)(=O)CC1=C(C=CC=C1)OC(F)F)N[C@H](C(F)(F)F)C1=CC=C(C=C1)F)=O | C23H21F6N3O4S
